### PR TITLE
[ fix #577 ] generic n-ary functions and products

### LINKED ISSUE #577: Generic congN?
Recently I've been needing [`cong₃`](https://github.com/gallais/thesis/blob/8ef895468c/doc/shared/Relation/Binary/PropositionalEquality/Extra.lagda#L6) so I figured I might as well check whether I can
write a generic version. After playing type cosmonaut for a bit, here we are:

```agda
open import Relation.Binary.PropositionalEquality as P using (_≡_; refl)
open import Data.Vec
open import Data.Vec.All
open import Data.Product
open import Data.Unit
open import Function
open import Level

toLevel : ∀ {n} → Vec Level n → Level
toLevel = foldr _ _⊔_ zero

Sets : ∀ {n} (ls : Vec Level n) → Set (suc (toLevel ls))
Sets []       = Lift _ ⊤
Sets (l ∷ ls) = Set l × Sets ls

arrows : ∀ {n r} (ls : Vec Level n) → Sets ls → Set r → Set (toLevel ls ⊔ r)
arrows []       ds       c = c
arrows (l ∷ ls) (d , ds) c = d → arrows ls ds c

eqs : ∀ {n r} (ls : Vec Level n) (ds : Sets ls) {c : Set r} →
      (f g : arrows ls ds c) → Set (toLevel ls ⊔ r)
eqs []       ds       f g = f ≡ g
eqs (l ∷ ls) (d , ds) f g = {x y : d} → x ≡ y → eqs ls ds (f x) (g y)

cong : ∀ n {ls : Vec Level n} {ds : Sets ls} {r} (c : Set r) →
       (f : arrows ls ds c) → eqs ls ds f f
cong _ {[]}     c f      = refl
cong _ {l ∷ ls} c f refl = cong _ {ls} c (f _)

-- test case


data Tree {l} (A : Set l) : Set l where
  node : Tree ⊤ → Tree A × Tree (A × A) → ⊤ → Tree A →
        (Vec ⊤ 2 → Tree (Vec A 5)) → Tree A

_ : ∀ {k l m n p q r s t u} → node k l m n p ≡ node q r s t u
_ = cong 5 (Tree (Lift (suc (suc zero)) ⊤)) node {!!} {!!} {!!} {!!} {!!}
```

As you'll have noticed you need to specify the return type of the constructor for
inference to work. I don't think we can get anything better without resorting to
reflection to inspect the goal directly: there is no reason for Agda to assume the
constructor is fully applied.

Thoughts?

Somewhat related: #10

### PR DESCRIPTION
**Pull request by gallais**
Comes with documentation of the design decisions!

* [X] (un)curry
* [X] cong, subst
* [X] k-th projections
* [x] hole at position k (cf comment in #577)
* [x] acting on k-th position (both for arrows & product)
* [X] removing k-th element
* [X] adding k-th element
* [x] README module demonstrating how to use all of this

### CODE REVIEW

**Comment by MatthewDaggitt** [comment]
Looks great! I should play around with it a bit and see if I can get any other useful things out. A generic proj function for products would be incredible...

**Comment by gallais** [comment]
Come to think of it, `Product` should probably not be `⊤`-terminated if we want it to
be useful in practice...

**Comment by gallais** [comment]
Let's also try to give a bunch of examples in a `README.X.Y.Z` module.

**Comment by gallais** [comment]
Hmm. I don't think that what I called `hole` is your notion of `hole`.
I'm going to drop it for the moment.

FTR:

```agda

------------------------------------------------------------------------
-- holeₙ : ∀ n (k : Fin n) →
--         (A₁ → ⋯ Aₙ → B) → Aₖ₊₁ → A₁ → ⋯ → Aₖ → Aₖ₊₂ → ⋯ → Aₙ → B

-- As we have seen earlier, `cong` acts on a function's first variable.
-- If we want to access the second one, we can use `flip`. But what about
-- the fourth one? We typically use an explicit λ-abstraction shuffling
-- variables. Not anymore.

-- Reusing mod-helper just because it takes a lot of arguments:

  hole₁ : ∀ k m n j → mod-helper k m n (j + 1) ≡ mod-helper k m n (suc j)
  hole₁ = λ k m n j → cong {!holeₙ 4 (# 3) mod-helper!} {!!} -- argh!!
```

**Comment by EdNutting** [comment]
The examples are great! With them I can see quickly how I'd use this to improve my own code. Great job! 

Substn and projn look particularly useful.

**Comment by MatthewDaggitt** [comment]
If it's okay with people I think I'm going to leave this till v1.1? I'm still thinking through where some of this stuff should live i.e. should `projₙ` be in `Data.Product`? Otherwise people are unlikely to find it. Obviously that would require making a `Data.Product.Base` etc.

**Comment by gallais** [comment]
We can use the same kind of magic to write a macro for injectivity proofs.
Not sure whether it's worth including though: I expect the library to come
with injectivity proofs already.

```agda
open import Data.Product.N-ary.Heterogeneous
open import Relation.Binary.PropositionalEquality
open import Reflection
open import Data.Fin using (Fin; #_)
open import Level using (_⊔_)
open import Data.Unit.Base
open import Data.List.Base
open import Data.Vec
open import Function
open import Data.Nat.Base using (suc; zero)
open import Data.Product

------------------------------------------------------------------------
-- macro for injectivity proofs

Injectiveₙ : ∀ n {ls r} (as : Sets n ls) {b : Set r} (k : Fin n) →
             (f : Arrows n as b) (xs ys : Product n as) →
             Set (r ⊔ Levelₙ ls k)
Injectiveₙ n as k f xs ys =
  uncurryₙ n f xs ≡ uncurryₙ n f ys →
  projₙ n k xs ≡ projₙ n k ys

macro

  injectiveₙ : ∀ n {ls r} {as : Sets n ls} {b : Set r} (k : Fin n) →
               (f : Arrows n as b) {xs ys : Product n as} → Term → TC ⊤
  injectiveₙ n {as = as} k f {xs} {ys} hole =
    bindTC (quoteTC (Injectiveₙ n as k f xs ys))  λ type →
    bindTC (inferType hole)                       λ goal →
    bindTC (unify goal type)                      λ _ →
    unify hole $ flip pat-lam []
      $ clause ( arg (arg-info visible relevant) (con (quote refl) [])
               ∷ []
               )
               (con (quote refl) [])
      ∷ []

_ : ∀ {m n} → suc m ≡ suc n → m ≡ n
_ = injectiveₙ 1 Fin.zero suc


data Tree {a} (A : Set a) : Set a where
  node : ∀ {n} → Tree A → Vec A n → Tree (A × A) → Tree A


_ : ∀ {a k} {A : Set a} {m n : Vec A k} {l r a b} →
    node a m l ≡ node b n r → a ≡ b × m ≡ n × l ≡ r
_ = λ eq →
      injectiveₙ 3 (# 0) node eq
    , injectiveₙ 3 (# 1) node eq
    , injectiveₙ 3 (# 2) node eq
```

**Comment by xekoukou** [comment]
I personally do not like removing ```T``` from Product. I used to do the same in my definition of n-product. In my case, it was increasing the number of cases needed in proofs. So I ended up accepting that I will have a ```T``` at the end.

Tomorrow , I will try to come up with an example.

**Comment by gallais** [comment]
The thing is, users don't tend to end their nested products with `⊤` so having
functions that only work in this case won't help them. I agree that with `⊤` the
implementations are simpler but that's not the only metric here.

**Comment by xekoukou** [comment]
You can look how it simplifies things [here](https://github.com/xekoukou/agda-stdlib/commit/6f877bfc28fa0869cc6075d86772d9f51d54118a).

I have defined two products , ```Product'``` and ```Product```. It seems that we can define functions in ```Product'``` and then use them to define the equivalent ones in Product.

I have added two functions ```addT`` and ```remT``` that add and remove ```T```.

Check the definitions of ```proj```  and ```remove```. I only change those two functions.

**Comment by xekoukou** [comment]
Second of all , maybe this can be simplified more. The definition of ```Proj``` should not be necessary.
If we have Sets of the same universe, then ```Proj``` can be replaced with [lookup](https://github.com/agda/agda-stdlib/blob/master/src/Data/Product/N-ary.agda#L67) from the homogeneous product.

Or it can be replaced with ```lookup``` from ```Vec``` or ```List```. 
This way, we can reuse proofs we have about vectors (or lists).

Here is my definition of Product with ```List``` as the container of Sets.

```agda

open import Data.Unit using (⊤ ; tt)
open import Data.List
open import Data.Product renaming (proj₁ to fst ; proj₂ to snd) hiding (map)
open import Level renaming (zero to lzero ; suc to lsuc ; Lift to ℓ↑) hiding (_⊔_)
open import Data.Fin

LSet : ∀{α} → Set (lsuc α)
LSet {α} = List (Set α)

_toPS : ∀{α} → LSet {α} → Set α
_toPS (E ∷ pd) = E × (pd toPS)
_toPS [] = ℓ↑ _ ⊤


System = _toPS

proj : ∀{α} → {PE : LSet {α}} → System PE → (i : Fin (length PE)) → lookup PE i
proj {PE = []} sys ()
proj {PE = E ∷ PE} sys zero = fst sys
proj {PE = E ∷ PE} sys (suc i) = proj (snd sys) i

```

**Comment by gallais** [comment]
> If we have Sets of the same universe

In the general case we don't. And users shouldn't have to wrap their Sets in `Lift`
to be able to use these functions.

Note also that if you use a `List`, inference won't be as good.

**Comment by xekoukou** [comment]
It is important to note that right now , for every operation on Products, we have an operation on Sets :  ```Proj , Remove , Insert , Update```, when we could have the [ones](https://github.com/agda/agda-stdlib/blob/master/src/Data/Vec.agda#L47) from Vec, for which we have proven many properties already.

If Sets of different universes are important, maybe we should define an Heterogeneous vector, which could also be used in other places, not only here.

**Comment by gallais** [comment]
Again: using these definitions rather than `List` or `Vec` is important for
inference to work properly. Cf. the discussion in #577.

**Comment by xekoukou** [comment]
I'll look at it further, but do notice that if we use the homogeneous N-ary product, for which we have proofs of properties, then we can have eta-expansion. (if that is the problem here).

**Comment by xekoukou** [comment]
@gallais 

Ok , let me point what I have [done](https://github.com/xekoukou/agda-stdlib/tree/fe7e8ea8d17713265115803482c8168525bb26e9) till now and the things that need to be done.

A. I have introduced two Products , one with ```T``` and one without. This simplifies the proofs while at the same time , users do not need to have products with ```T```. Notice that the proofs are easier for both definitions of products.

B. I have kept ```Levels``` and ```Sets```, thus inference works as before. 
C. Due to A, it seems that there is natural correspondence between the functions ```Proj , Insert , ... ``` and ```proj , insert , ...```

If we prove this correspondence, **then any proposition we prove for ```proj``` will also hold for ```Proj```.** etc.

I have currently proved the correspondence of ```Sets``` with ```Product``` and it remains to prove the rest.

```agda
lemma1 : ∀ n {ls} → Product′ n (sucSets n ls) ≡ Sets n ls
lemma1 zero = refl
lemma1 (suc n) = cong (λ z → _ × z) (lemma1 n)
```

The proofs might be a bit tricky, so I may need your help.

**Comment by xekoukou** [comment]
With the generalized Heterogeneous equality , I have managed to prove these two lemmas for ```proj``` and ```remove``` and there are 2 proofs remaining and some cleaning.

```agda
  lemma5 : ∀ n {ls ss} k → (p : Product′ n (sucSets n ls))
           → ss H.≅ p
           → Removeₙ {n} {ls} ss k H.≅ removeₙ′ n k p
  lemma4 : ∀ n {ls ss} k → (p : Product′ n (sucSets n ls))
           → ss H.≅ p
           → Projₙ {n} {ls} ss k H.≅ projₙ′ n k p
```

I am waiting for some feedback before continuing with the rest of the proofs.

**Comment by gallais** [comment]
I finally found the time to have look at your code. I like the simpler proofs using
`Product'`. We need to pick better names though: in [`Function`](https://agda.github.io/agda-stdlib/Function.html), a  ticked name
means the non-dependent version of the function.

**Comment by xekoukou** [comment]
@gallais This code works very well when "n" is fixed. I do not know how to make it better, so that it would be easy to prove things even when n is a abstract. So , I give up.

**Comment by jespercockx** [comment]
`Sets` can be further generalized to `Telescope`: a list of types where each type can depend on values of the previous types. This would allow us to define n-ary versions of **dependent** functions and products, as for example in my small library [here](https://github.com/jespercockx/telescopic/blob/master/src/Telescope.agda) (hasn't been updated in a while). Would there be interest in adding such a definition to the standard library as well? If yes, I could try converting my code to the library conventions and making a PR.

**Comment by gallais** [comment]
I welcome any generalisation however:

* `cong`, `subst`, etc. are typically not dependent (and a potential dependent version would take us on the road to het equality, K, etc.)
* I would really like if we could maintain *full inference* of the `Sets` / `Tel` argument. I don't think primitives which require the user to write down the reified type by hand are very useful.

**Comment by jespercockx** [comment]
My library includes definitions of telescopic equality with `subst` and `cong` that do not depend on UIP, so the first problem is definitely solvable. The second one would require some more experimentation to find out how good Agda is at figuring out telescopes.

**Comment by JacquesCarette** [comment]
I would very much welcome such an addition!

**Comment by MatthewDaggitt** [comment]
Just had another look at it (apologies for taking so long @gallais) and I'm struck again by how awesome this all is! The documentation is fantastic as well.

My only comment is that if we shift the contents of `Data.Product ` to `Data.Product.Base` can we expose `projₙ` and other similar things in `Data.Product`? (probably as `projₙ'` in case someone gets the non-dependent version working someday).

Speaking of dependent telescoping versions, they can always be added in a separate module `N-ary.Dependent` later on, so I propose merging this PR soon.

**Comment by jespercockx** [comment]
Yes, I certainly didn't mean to delay this PR in any way! After it's merged, I could try to make a PR with some basic functionality in `N-ary.Dependent`.

**Comment by gallais** [comment]
> apologies for taking so long

I don't mind it at all, quite the contrary. I came back to this PR multiple times
since the first time I thought it was ready and fixed / enhanced it in various ways.

**Comment by gallais** [comment]
It starts to feel like the module should be split up.
The content could be dispatched in:

* Function.Nary.Heterogeneous
* Relation.Nary.Heterogeneous (just like we have a lot of combinators in `Relation.Unary`)
* Data.Product.Nary.Heterogeneous
* Data.Sum.Nary.Heterogeneous (TODO)

File: src/Data/Product/N-ary/Heterogeneous.agda [hunk 1]
```diff
@@ -313,32 +313,33 @@ infix 5 Π[_]
 ------------------------------------------------------------------------
 -- n-ary pointwise liftings
 
+lift₂ : ∀ n {ls r s t} {as : Sets n ls} {R : Set r} {S : Set s} {T : Set t} →
+        (R → S → T) → as ⇉ R → as ⇉ S → as ⇉ T
+lift₂ zero    op f g = op f g
+lift₂ (suc n) op f g = λ x → lift₂ n op (f x) (g x)
+
```
Comment (gallais) [inline src/Data/Product/N-ary/Heterogeneous.agda]: This can also be written

```agda
lift₂ n op f g = curryₙ n (λ vs → op (uncurryₙ n f vs) (uncurryₙ n g vs))
```

but not convinced it's worth the trouble.

**Comment by JacquesCarette** [comment]
This is really wonderful stuff; I agree that the code is getting large, and that splitting things up as you suggest seems like a good idea.

File: src/Data/Product/N-ary/Heterogeneous.agda (hunk 1 above)
Comment (gallais) [reply src/Data/Product/N-ary/Heterogeneous.agda]: I have n-ary lift too but the type is quite nasty: https://github.com/gallais/nary/blob/3541bd0eac93eadc0998ae477c64bdf17b6703e4/doc/lagda/N-ary.lagda#L532

May be worth including once the work is split up in more granular modules.

**Comment by gallais** [comment]
Ok, now that I have shipped my draft about this work (https://gallais.github.io/pdf/tyde19_draft.pdf),
I'll do the split.

File: src/Data/Product/N-ary/Heterogeneous.agda (hunk 1 above)
Comment (gallais) [reply src/Data/Product/N-ary/Heterogeneous.agda]: included the general lift during the refactoring

**Comment by gallais** [comment]
I'm annoyed by the module names:

* I like `Function.Nary.NonDependent` and `Relation.Nary`
* `Data.Product.N-ary.Heterogeneous` looks meh

**Comment by JacquesCarette** [comment]
Why not just `Data.Product.N-ary` (or `Nary`)? There is no reason for the `Heterogeneous` as the homogeneous version is `Data.Vec` (at `Set` 'type').

**Comment by gallais** [comment]
`Data.Product.N-ary` already exists unfortunately :/

https://agda.github.io/agda-stdlib/Data.Product.N-ary.html

I was tempted to go for `Data.Product.Nary.NonDependent` to mirror the `Function`
one but is it not too confusing `Nary` vs. `N-ary`?

**Comment by JacquesCarette** [comment]
I would rename that one `Data.Product.N-ary.Fixed` (or even `FixedN`) ! 

About `Nary` vs `N-ary`: I don't really care which is used, consistency is however important. I think it is bad to use both.

**Comment by gallais** [comment]
If we do not mind a breaking change, we could move the existing
`Data.Product.N-ary` to e.g. `Data.Vec.Recursive` and DEPRECATE
the old ones while using `Data.Product.Nary.NonDependent` for
this work. This would have the added benefit of getting rid of a
bunch of hyphenated modules #265.

**Comment by MatthewDaggitt** [comment]
Don't have a strong opinion. Happy with whatever you decide!

**Comment by gallais** [comment]
I thought I had already committed the changes when I decided to amend them. But I
had not so the move + deprecation + renaming is mixed with the merge. Oh well, not
a big deal as we are going to squash everything together anyways.

**Comment by JacquesCarette** [comment]
By the way, nice TyDe draft. I very much enjoyed reading it.

**Comment by gallais** [comment]
Thanks!
